* Motor-drive SPICE netlist - formatted

V_drive N001 0 PULSE(0.0 3 50m 0 0m 8 0 1)
L_Motor N001 N006 {L_Motor_coil}
R_Motor N006 N008 {R_motor}
V_SENSE_1 N014 0 0

L_inertia N002 N005 {L_rotor_inertia} Rser=0.0 Rpar=0
V_SENSE_2 N013 0 0

B_V_torque N002 0 V=I(V_SENSE_1)*K_t
Back_emf N008 N014 V=I(V_SENSE_2)*K_emf
B3 0 N004 I=I(V_SENSE_2)

C1 N004 0 1 Rser=0 Lser=0 Rpar=0 Cpar=0
R1 N004 0 1

R_loss_1 N005 N009 {R_loss_internal}
V_Sense_3 N012 0 0
B1 0 N011 I=I(V_Sense_3)
C2 N011 0 1 Rser=0 Lser=0 Rpar=0 Cpar=0
R2 N011 0 1

R_loss_external N003 N007 {R_loss_external}
L_inertia1 N007 N010 {L_load_inertia} Rser=0.0 Rpar=0

B2 0 N003 I=I(V_SENSE_2)/Gr
B_Shaft_feedback N009 N013 V=V(N004,N012)/Gr

V_Load_torque N010 N012 0

.tran 0 300m 0m 0.001m startup

.PARAM K_t=0.0007
.PARAM K_emf=0.0007
.PARAM R_motor=5.5
.PARAM L_Motor_coil=50u
.PARAM R_loss_internal=300n
.PARAM L_rotor_inertia=0.00000002
.PARAM R_loss_2=0.0000003
.PARAM R_loss_external=0.0000003
.PARAM L_load_inertia=0.00000002
.PARAM Gr=5

.backanno
.end