* E:\Documents\Masters\Project\Simulation\Soft Start\LTC4380-4.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N005 N006 10
R2 N003 OUT 1.5m
M§Q1 IN N005 N003 N003 IPB011N04N
C2 N010 0 0.2µ
Cload OUT 0 5m
V1 IN 0 PWL(0 0 2.7m 0 2.701m 29)
D1 0 N008 1N5371B
C4 N008 0 .1µ
Rload OUT 0 100k
R7 OUT N009 51k
C1 N006 P001 47n
R4 P001 0 100
X§U1 0 OUT N003 N006 N008 N007 N008 N010 0 N009 LTC4380-4
R3 IN N008 10K
R6 N004 0 1
S1 N004 OUT N002 N001 SW
V2 N002 N001 PWL(0 0 2070m 0 2070.1m 5)
R5 IN N007 200k
.model D D
.lib C:\Users\conor\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\conor\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 20
.model SW SW(Ron=1m Roff=100Meg Vt=3)
.lib LTC4380-4.sub
.backanno
.end
